US04500716
Ethyl 2-ethoxycarbonylimino-3-ethoxycarbonyl-4-thiazolin-4-ylacetate
is prepared from ethyl 2-aminothiazol-4-ylacetate and diethyl pyrocarbonate in analogy to Example 1.

reactant | ethyl 2-aminothiazol-4-ylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | diethyl pyrocarbonate | C(OCC)(=O)OC(=O)OCC | C6H10O5
product | Ethyl 2-ethoxycarbonylimino-3-ethoxycarbonyl-4-thiazolin-4-ylacetate | C(C)OC(=O)N=C1SC=C(N1C(=O)OCC)CC(=O)OCC | C13H18N2O6S
